US05215972
A solution of 0.7 g of cholest-5-en-3β-yl (S)-2-[[(2-bromoethoxy)hydroxyphosphinyl]oxy]propionate in 15 ml of toluene is treated with 15 ml of trimethylamine in a dry-ice bath. The mixture is heated to 60° C. for 30 hours. After cooling the reaction mixture is taken up in toluene and concentrated. The residue is taken up in 30 ml of methanol, treated with 2 g of silver carbonate and stirred at 50° C. for 0.5 hour. The precipitate is filtered off, concentrated and there is obtained 0.6 g of O-[[(S)-1-[(cholest-5-en-3β-yloxy)carbonyl]ethoxy]hydroxyphosphinyl]choline hydroxide internal salt, MS: 624 (M+H+).

reactant | cholest-5-en-3β-yl (S)-2-[[(2-bromoethoxy)hydroxyphosphinyl]oxy]propionate | 0.7 g | BrCCOP(=O)(O[C@H](C(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C)O | C32H54BrO6P
reactant | trimethylamine | 15 ml | CN(C)C | C3H9N
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | O-[[(S)-1-[(cholest-5-en-3β-yloxy)carbonyl]ethoxy]hydroxyphosphinyl]choline hydroxide | 0.6 g | [OH-].CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)OC(=O)[C@H](C)OP(=O)(OCC[N+](C)(C)C)O | InChI=1S/C35H62NO6P.H2O/c1-24(2)11-10-12-25(3)30-15-16-31-29-14-13-27-23-28(17-19-34(27,5)32(29)18-20-35(30,31)6)41-33(37)26(4)42-43(38,39)40-22-21-36(7,8)9;/h13,24-26,28-32H,10-12,14-23H2,1-9H3;1H2/t25-,26+,28+,29+,30-,31+,32+,34+,35-;/m1./s1
